US08048909B2
1-{1-[(3,4-Difluorophenyl)sulfonyl]-5-(pyridin-2-yl)-1H-pyrrol-3-yl}-N-methylmethanamine dihydrochloride
1-[(3,4-Difluorophenyl)sulfonyl]-5-(pyridin-2-yl)-1H-pyrrole-3-carbaldehyde (100 mg) was dissolved in methanol (20 mL), 40% methylamine methanol solution (112 mg) was added at room temperature, and the mixture was stirred for 30 min. Sodium borohydride (33 mg) was added at room temperature, and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid (20 mL) was added, and the mixture was stirred for 5 min. The reaction mixture was alkalized with a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate), and dissolved in methanol (5 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added, and the mixture was concentrated under reduced pressure. The residue was crystallized from a mixed solvent (1:10) of methanol-tetrahydrofuran to give the title compound as colorless crystals (yield 89 mg, 71%).

reactant | 1-[(3,4-Difluorophenyl)sulfonyl]-5-(pyridin-2-yl)-1H-pyrrole-3-carbaldehyde | 100 mg | FC=1C=C(C=CC1F)S(=O)(=O)N1C=C(C=C1C1=NC=CC=C1)C=O | C16H10F2N2O3S
reactant | methylamine methanol | 112 mg | CO.CN
reactant | Sodium borohydride | 33 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L, 20 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 1-{1-[(3,4-Difluorophenyl)sulfonyl]-5-(pyridin-2-yl)-1H-pyrrol-3-yl}-N-methylmethanamine dihydrochloride | yield 89 mg, 71% | Cl.Cl.FC=1C=C(C=CC1F)S(=O)(=O)N1C=C(C=C1C1=NC=CC=C1)CNC | InChI=1S/C17H15F2N3O2S.2ClH/c1-20-10-12-8-17(16-4-2-3-7-21-16)22(11-12)25(23,24)13-5-6-14(18)15(19)9-13;;/h2-9,11,20H,10H2,1H3;2*1H
